US07838524B2
1-{5-tert-Butyl-2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-3-yloxy)-phenyl]-urea
4-{2-[4-(5-Amino-3-tert-butyl-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester was coupled with 4-(pyridin-3-yloxy)phenylamine by reaction with CDI in a similar manner to that described above, to provide the urea 4-{2-[4-(3-tert-butyl-5-{3-[4-(pyridin-3-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (LC-MS [M+H]+=655, RT=3.51 min). Step 2. To a solution of 4-{2-[4-(3-tert-butyl-5-{3-[4-(pyridin-3-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (210 mg, 0.32 mmol) in DCM (1 mL) was added trifluoroacetic acid (0.3 mL). The reaction mixture was stirred at room temperature for 16 h, concentrated at reduced pressure, re-dissolved in methanol and purified by preparative HPLC. The HPLC fraction containing the desired product was basified by addition of saturated aq Na2CO3 and then extracted with EtOAc. Evaporation of the solvent at reduced pressure gave the desired product 1-{5-tert-butyl-2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-3-yloxy)-phenyl]-urea (46.6 mg, 26%). 1H-NMR (DMSO-d6) δ 9.20 (s, 1H), 8.30 (m, 3H), 7.45-7.35 (m, 5H), 7.00 (m, 3H), 6.30 (s, 1H), 4.0 (m, 4H), 2.40 (m, 2H), 1.70-1.60 (m, 6H), 1.40 (s, 9H), 1.05 (m, 1H); MS LC-MS [M+H]+=555.3, RT=2.73 min.

reactant | 4-{2-[4-(3-tert-butyl-5-{3-[4-(pyridin-3-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-phenoxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC=1C=NC=CC1)C(C)(C)C | C37H46N6O5
reactant | trifluoroacetic acid | 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-{5-tert-butyl-2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-3-yloxy)-phenyl]-urea | 46.6 mg, 26% | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)OCCC1CCNCC1)NC(=O)NC1=CC=C(C=C1)OC=1C=NC=CC1 | C32H38N6O3
